US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-5-carboxamide
To a solution of 1-ethyl-3-methyl-1H-pyrazole-5-carboxylic acid (188 mg, 1.22 mmol) in tetrahydrofuran (7 mL) were added oxalyl chloride (160 μL, 1.83 mmol) and N,N-dimethylformamide (1 drop), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (3 mL). N-[6-(3-Amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.611 mmol) was added with stirring under ice-cooling, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (NH silica gel, ethyl acetate) and recrystallized from ethyl acetate to give the title compound (254 mg, 90%) as a white solid.

reactant | 1-ethyl-3-methyl-1H-pyrazole-5-carboxylic acid | 1.22 mmol, 188 mg | C(C)N1N=C(C=C1C(=O)O)C | C7H10N2O2
reactant | oxalyl chloride | 1.83 mmol, 160 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-Amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.611 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-5-carboxamide | 254 mg, 90% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2CC)C)F)=N1 | C23H22FN7O3
